US08426447B2
A vial was charged with (S)-2′-amino-3-((3-methyloxetan-3-yl)ethynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate (50.0 mg, 0.101 mmol), 2-fluoropyridin-3-ylboronic acid (21.33 mg, 0.151 mmol), potassium carbonate (69.7 mg, 0.505 mmol), and Pd(PPh3)4 (11.66 mg, 10.09 μmol). The vial was flushed with Ar (g), then dioxane (505 μL) and water (0.25 mL) were added in sequence. The vial was sealed and placed in a 70° C. oil for 1 hour. The mixture was diluted with EtOAc and washed with brine. The organic layer was dried over sodium sulfate, filtered, and evaporated. The residue was chromatographed on a 12-g Redi-Sep column with 0-60% of a 90:10:1 mix of DCM/MeOH/NH4OH in DCM to give a pink solid. The solid was dissolved in MeOH and loaded onto a 500-mg SCX-2 column. The column was first eluted with methanol, then with 2N ammonia in methanol to remove the product. The filtrate was evaporated to give (S)-7-(2-fluoropyridin-3-yl)-3-((3-methyloxetan-3-yl)ethynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine as pale yellow solid. Found MS: MH+=443.0.

reactant | (S)-2′-amino-3-((3-methyloxetan-3-yl)ethynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate | 0.101 mmol, 50.0 mg | FC(S(=O)(=O)OC=1C=C2C(=CC1)OC1=NC=C(C=C1[C@@]21N=C(OC1)N)C#CC1(COC1)C)(F)F | C21H16F3N3O6S
reactant | 2-fluoropyridin-3-ylboronic acid | 0.151 mmol, 21.33 mg | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | potassium carbonate | 0.505 mmol, 69.7 mg | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | CO | CH4O
catalyst | Pd(PPh3)4 | 10.09 μmol, 11.66 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-7-(2-fluoropyridin-3-yl)-3-((3-methyloxetan-3-yl)ethynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | FC1=NC=CC=C1C=1C=C2C(=CC1)OC1=NC=C(C=C1[C@@]21N=C(OC1)N)C#CC1(COC1)C | C25H19FN4O3
